US06846953B1
N-Propionyl 1-amino-4-chloronaphthalene.
To a stirred solution of 1-amino-4-chloronaphthalene (0.70 g, 3.9 mmol) in dichloromethane (50 ml) was added triethylamine (1.0 ml, 7 mmol), followed by propionyl chloride (0.5 ml, 5.8 mmol). After 20 min the mixture was diluted with ethyl acetate (150 ml) and washed with 2N HCl (100 ml) followed by saturated sodium carbonate (100 ml). The organic phase was separated, dried (MgSO4) and the solvent removed in vacuo. The residue was triturated with a mixture of ethyl acetate and heptane, 130 ml, 3:10) to give 0.62 g (67%) of the desired compound as a white solid.

reactant | 1-amino-4-chloronaphthalene | 3.9 mmol, 0.70 g | NC1=CC=C(C2=CC=CC=C12)Cl | C10H8ClN
reactant | triethylamine | 7 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 5.8 mmol, 0.5 ml | C(CC)(=O)Cl | C3H5ClO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | N-Propionyl 1-amino-4-chloronaphthalene | 0.62 g, 67% | C(CC)(=O)NC1=CC=C(C2=CC=CC=C12)Cl | C13H12ClNO
